US04005103
The procedure of Example IX using 21 g of 1-cyclopropyl-3-(3',4'-dimethoxyphenyl)prop-2-en-1-one, 8 ml of nitroethane and 1.2 g of sodium in 80 ml of methanol gives 16 g of 1-cyclopropyl-3-(3',4'-dimethoxyphenyl)-4-nitropentanone, which is used in the crude state for the remainder of the operations.

reactant | 1-cyclopropyl-3-(3',4'-dimethoxyphenyl)prop-2-en-1-one | 21 g | C1(CC1)C(C=CC1=CC(=C(C=C1)OC)OC)=O | C14H16O3
reactant | nitroethane | 8 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium | 1.2 g | [Na] | Na
reactant | methanol | 80 ml | CO | CH4O
product | 1-cyclopropyl-3-(3',4'-dimethoxyphenyl)-4-nitropentanone | 16 g | C1(CC1)CC(C(C(C)[N+](=O)[O-])C1=CC(=C(C=C1)OC)OC)=O | C16H21NO5
